US08614206B2
To a solution of tert-butyl 6,6-difluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ylcarbamate (2.5 g, 6.67 mmol) in ethanol (100 mL) and water (10 mL) was added ammonium chloride (3.5 g, 65.0 mmol) and iron powder (3.0 g, 53.7 mmol). The reaction mixture was heated at 100° C. for 2.5 hr, before being cooled down at room temperature, filtered through Celite®, washed with MeOH and the filtrate concentrated under reduced pressure. The residue was dissolved in DCM (200 mL), quenched with a saturated solution of sodium hydrogencarbonate (300 mL) and a 10% solution of sodium sulfite (100 mL) and the mixture stirred for 30 min. The layers were separated and the aqueous layer extracted with DCM (100 mL). The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-30% EtOAc/isohexane) gave tert-butyl 1-(4-amino-1-methyl-1H-pyrazol-5-yl)-6,6-difluoroazepan-4-ylcarbamate as an orange foam (2.12 g). A solution of PyBOP (1.92 g, 3.70 mmol) and 2-bromo-5-(tert-butoxycarbonyl-amino)thiazole-4-carboxylic acid (795 mg, 2.46 mmol) in DCM (50 mL) was stirred at room temperature for 15 min. tert-Butyl 1-(4-amino-1-methyl-1H-pyrazol-5-yl)-6,6-difluoroazepan-4-ylcarbamate (850 mg, 2.46 mmol) and DIPEA (2.0 mL, 11.4 mmol) were added and the mixture stirred at room temperature for 18 hr. The reaction mixture was diluted with DCM (50 mL) and washed with a saturated solution of sodium hydrogencarbonate (100 mL). The organic layer was passed through a phase separation cartridge and concentrated under reduced pressure. Purification of the residue via silica gel column chromatography (0-100% EtOAc/isohexane) gave tert-butyl 1-(4-(5-(tert-butoxycabonyl-amino)-2-bromothiazole-4-carboxamido)-1-methyl-1H-pyrazol-5-yl)-6,6-difluoroazepan-4-ylcarbamate as a pale yellow foam (1.35 g, 77% over two steps). 1H NMR (400 MHz, CDCl3) δ 10.24 (s, 1H), 8.37 (s, 1H), 7.65 (s, 1H), 4.88 (s, 1H), 4.04 (s, 1H), 3.77 (s, 3H), 3.63-3.43 (m, 2H), 3.38-3.24 (m, 2H), 2.52-2.40 (m, 2H), 2.13-2.05 (m, 1H), 1.99 (s, 1H), 1.53 (s, 9H), 1.43 (s, 9H).

reactant | PyBOP | 3.70 mmol, 1.92 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 2-bromo-5-(tert-butoxycarbonyl-amino)thiazole-4-carboxylic acid | 2.46 mmol, 795 mg | BrC=1SC(=C(N1)C(=O)O)NC(=O)OC(C)(C)C | C9H11BrN2O4S
reactant | tert-Butyl 1-(4-amino-1-methyl-1H-pyrazol-5-yl)-6,6-difluoroazepan-4-ylcarbamate | 2.46 mmol, 850 mg | NC=1C=NN(C1N1CCC(CC(C1)(F)F)NC(OC(C)(C)C)=O)C | C15H25F2N5O2
reactant | DIPEA | 11.4 mmol, 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 1-(4-(5-(tert-butoxycabonyl-amino)-2-bromothiazole-4-carboxamido)-1-methyl-1H-pyrazol-5-yl)-6,6-difluoroazepan-4-ylcarbamate | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)Br)C(=O)NC=1C=NN(C1N1CCC(CC(C1)(F)F)NC(OC(C)(C)C)=O)C | C24H34BrF2N7O5S
